data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4877,"CO[C:1](O)=[N+:2](C)CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9050,"C1CCC(CC[N+:1]23CCC[CH:2]2C3)CC1.CCNC(=O)CCC[NH:3]CC1CCCCC1.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1495,"CC1=CCC2(C)CCC(C(C)C)C2([OH+:1][H:2])CC1.O=P1([O-])[O][Mg][O]P(=O)([O-:3])O1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10047,"C[C+:1](C)[CH:2](CC[OH:3])[H:4].[Br-]|(3, 4);((4, 2), 1)"
train,pmechdb_split_0,0,671,"CCOCC.F[B-](F)(F)[OH:1].O=C1C=CC2(C1)OCC(C1=CC=CC=C1)(C1=CC=CC=C1)C[O+:2]2[H:3].OCC(CO)(C1=CC=CC=C1)C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4795,"CCC(=O)O[C+:1]1C=CC=C[C:2]1(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2907,"CC#CCCC=C(C)CCCC(=C(C)C)[C:1](C)(C)[OH2+:2].O=C[O-]|((1, 2), 2)"
train,pmechdb_split_0,0,383,"CCCCCC(OCC1=CC=CC=C1)C1OC(=O)N2C(C[C:1](Cl)=[O:2])CC=CC12.O.OCCCC[NH:3]CC1=CC=CC=C1.[OH][Na]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10334,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCC1=C(C2CCCCC2)C=C([S+:1]2C(C)[CH2:2]2)C=C1.CCCO.CC[NH:3]CC(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8581,"CC(=O)[O-:1].CO.C[C:2](C)=[O+:3]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9956,"CO[C:1]1=[CH:2]C=CC=C1Br.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,5658,"CC(=O)C(C)(C)[C:1](C)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6683,"CC(C)=CCC1(C)CC=CC(C)=C1[O][Li-][N:1](C(C)C)C(C)C.CC(C)=CCC1(C)C[CH:2]([H:3])[CH:4]=[C:5](C)[C:6]1=[O+:7][Li-][NH+](C(C)C)C(C)C|(1, 3);((3, 2), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,211,"C1CCN([C:1]2=[CH:2]CCCC2)C1.[Cl:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2680,"C=CC(C)CC[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3111,"CC(=O)OC1=C2OC3C(=O)C(C)CC4(OC(C)=O)C5CC(=C2C34CC[N+:1]5(C#N)[CH3:2])C=C1.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1938,"CC(=O)CCC(C)([NH2+]C1=NNC=C1)[O-:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6636,"BrC[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C1=CC=C([CH2+:5])C=C1|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,5082,"C[O:1][CH+:2]O|(1, 2)"
train,pmechdb_split_0,0,531,"CCC(C)(CO)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7414,"C1=CC=C(C[OH:1])C=C1.CCCCCCCCC=CCCCCCCCC(=O)[O-].CCCCCCCCC=CCCCCCCC[C:2]([N+]1=CC=C(N(C)C)C=C1)=[O:3].CN(C)C1=CC=NC=C1.O=C(NC1CCCCC1)NC1CCCCC1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8138,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.OCC[O:1][CH:2](C1=CC(F)=CC=C1Br)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8286,"CC1(C)OC2C(OS(C)(=O)=O)[CH:1]([O:2]S(C)(=O)=O)C[S:3]C2O1.C[O][Na]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3244,"C1=CC2=C(C=C1)C(=[NH:1])SC2.C[N+:2](=C1SCC2=C1C=CC=C2)[H:3].[I-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3937,"C1=CC=[C:1]([Li:2])C=C1.CC(=O)CC[C:3](Cl)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8364,"Br[B:1](Br)Br.CN1CCC23C4=C5C=CC([O:2]C)=C4OC2C(=O)CCC3(O)C1C5|(2, 1)"
train,pmechdb_split_0,0,8136,"C1=CC=C(C[NH2:1])C=C1.CO.[O-]C(C=CC1=CC=CC=C1)[NH+:2](CC1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4911,"C1CC2C(C1)[C:1]2=[O:2].[Cl-].[K][OH:3].[OH2+][K]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1334,"C[C:1]([CH:2](C(=O)CC1=CC=CC=C1)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6986,"CCSC[CH:1]=[C:2](OC)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,399,"O=C[CH:1]([H:2])[CH+:3]C1=CC=CC=C1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3641,"CC(=O)C1=CC2=C(C=C1)[CH:1]=[CH:2]C=C2.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2526,"CC(=O)O.CC(=O)O[I:1]1(OCC2CCCN2C(=O)C2=CC=CN2)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2|((1, 2), 2)"
train,pmechdb_split_0,0,2943,"C1=CN=C([CH2-:1])C=C1.[CH3:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,184,"C1=CC=[N:1]C=C1.C[CH:2]([H:3])[CH:4](C)[O:5]P(=O)(Cl)Cl|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9796,"CC(C)[C+:1]1CCCC1.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,1359,"CC(C)[N-:1]C(C)C.CC[C:2](C)(C#N)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7769,"C=C(C)[C:1](C)([O:2][Mg][Br])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3140,"CCOP(C)(C)(C)N(NC(=O)OC)C(OC)=[O:1].O=C1CCC(=O)[N:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5359,"O=S(=O)(O)[O-:1].OC(C(Cl)(Cl)Cl)[C:2]1([H:3])C=CC(Cl)=C[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,320,"CC(=O)O.COC1=CC=C(Br)C(C(=O)N2CCC3=CC4=C(C=C3C(O[I:1]3(OC(C)=O)([O:2]C(C)=O)OC(=O)C5=C3C=CC=C5)CC2)OCO4)=C1OC|((1, 2), 2)"
train,pmechdb_split_0,0,8764,"COC1=C(O)C=CC(CC(C(=O)[O][Na])[CH:1]([CH:2]=[C:3]2C=C[C:4](=[O:5])[C:6](OC)=[CH:7]2)[CH2:8][O-:9])=C1.O|(9, 8);((8, 1), 2);((2, 3), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1415,"CS(=O)(=O)[O-:1].C[C+]=C[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,6932,"CCC(C=O)(CCCNC(=O)CCl)CCC(=O)CC1=C([NH2+:1][C:2](=O)[O-:3])C=CC=C1.C[C+](C)C.O=C([O-])C(F)(F)F|(3, 2);((2, 1), 1)"
